US06051712
In analogy to the procedure described in Example 14, by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate with 2-bromomethylnaphthalene in the presence of potassium carbonate there was obtained tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(naphthalen-2-ylmethoxy)-phenyl]-piperidine-1-carboxylate as a colourless solid; MS: 434 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(naphthalen-2-ylmethoxy)-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C27H31NO4
